US07132449B2
A solution of sodium nitrite (5.1 g, 73 mmol) in water (15 ml) was added drop-wise at 0° C. over 5 hours to a stirred mixture of L-leucine (8.75 g, 67 mmol), potassium bromide (29.75 g, 0.25 mol) and concentrated sulphuric acid (8.6 ml) in water (100 ml). The mixture was stirred for 30 minutes at 0° C. then at ambient temperature for 20 hours. The product was extracted into diethyl ether (2×150 ml) then the combined ethereal layers were washed with saturated aqueous sodium chloride solution (2×100 ml), dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography over silica gel eluting with a gradient of methanol:dichloromethane 1:50→1:20. Appropriate fractions were combined and the solvents removed in vacuo to leave (S)-2-bromomethylpentanoic acid as a colourless oil (2.22 g, 17%). TLC (single spot, Rf=0.2, methanol:dichloromethane 1:20).

reactant | sodium nitrite | 73 mmol, 5.1 g | N(=O)[O-].[Na+]
reactant | L-leucine | 67 mmol, 8.75 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | potassium bromide | 0.25 mol, 29.75 g | [Br-].[K+]
reactant | sulphuric acid | 8.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 15 ml | O | H2O
reactant | water | 100 ml | O | H2O
product | (S)-2-bromomethylpentanoic acid | 2.22 g, 17% | BrC[C@H](C(=O)O)CCC | C6H11BrO2
